US05017719
74 g (0.3 mol) of phosphorous acid trisdiethylamide in 150 ml of CH2Cl2 were initially introduced into a round-bottomed flask with the exclusion of moisture. 74 g (0.3 mol) of pentafluoroethyl iodide and 26.4 g (0.15 mol) of o-chlorobenzoyl chloride were added at about -20° C. The mixture was warmed to 0° C. and stirred for about 8 hours at this temperature. 10 g of hydrogen chloride gas were then introduced, and the mixture was stirred for a further hour at 0° C. The reaction mixture was freed from solvent under reduced pressure and introduced into 3 times the volume of water. The organic phase was separated off, dried and distilled. 34.6 g (62%) of 3-(2-chlorophenyl)-1,1,1,2,2,4,4,5,5,5-decafluoropentan-3-ol of b.p. 66° C./2 mbar were obtained.

reactant | pentafluoroethyl iodide | 0.3 mol, 74 g | FC(C(F)(F)F)(F)I | C2F5I
reactant | o-chlorobenzoyl chloride | 0.15 mol, 26.4 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | hydrogen chloride | 10 g | Cl | ClH
reactant | water | O | H2O
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-chlorophenyl)-1,1,1,2,2,4,4,5,5,5-decafluoropentan-3-ol | 34.6 g, 62% | ClC1=C(C=CC=C1)C(C(C(F)(F)F)(F)F)(C(C(F)(F)F)(F)F)O | C11H5ClF10O
